US07598391B2
1,1-Dicyclohexyl-3-[4-methyl-5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(4-methyl-5-thiocyanato-thiazol-2-yl)-urea and N-(2-chloroethyl)piperidine.

reactant | 1,1-dicyclohexyl-3-(4-methyl-5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=C(N1)C)SC#N)C1CCCCC1 | C18H26N4OS2
reactant | N-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1,1-Dicyclohexyl-3-[4-methyl-5-(2-piperidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=C(N1)C)SCCN1CCCCC1)C1CCCCC1 | C24H40N4OS2
